US07192982B2
2-Fluoro-4-methoxy-benzaldehyde (1 g, 6.49 mmol) was added to a suspension of anhydrous potassium iodide (2.15 g, 13 mmol) and aluminum trichloride (1.04 g, 7.8 mmol) in anhydrous toluene (10 mL), and the mixture was stirred at 40° C. for 3 hours. Aluminum trichloride (2.15 g, 13 mmol) and anhydrous potassium iodide (0.86 g, 6.49 mmol) were added, and the mixture was stirred for 3 hours. The mixture was diluted with water (10 mL) and extracted with ethyl acetate (5×20 mL). The combined organic layers were dried (MgSO4), filtered, and concentrated under vacuum. The residue was purified by silica gel chromatography (silica gel, hexanes/ethyl acetate 4:1) to give 2-fluoro-4-hydroxy-benzaldehyde as a white solid (260 mg, 29%). 1H NMR (200 MHz, Acetone-d6): δ 10.08 (s, 1H), 9.77 (b, 1H), 7.69 (t, 1H, J=8.4), 6.78 (dd, 1H, J=8.8, 2.6), 6.65 (dd, 1H, J=12.5, 2.2)ppm.

reactant | 2-Fluoro-4-methoxy-benzaldehyde | 6.49 mmol, 1 g | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
reactant | potassium iodide | 13 mmol, 2.15 g | [I-].[K+]
reactant | aluminum trichloride | 7.8 mmol, 1.04 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | Aluminum trichloride | 13 mmol, 2.15 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | potassium iodide | 6.49 mmol, 0.86 g | [I-].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 mL | O | H2O
product | 2-fluoro-4-hydroxy-benzaldehyde | 260 mg, 29% | FC1=C(C=O)C=CC(=C1)O | C7H5FO2
